* Z:\mnt\design.r\spice\examples\3214.asc
C1 N007 N008 2.2µ
C2 N003 N005 2.2µ
R1 N002 0 10K
D1 N004 N006 AOT-2015
V1 N001 0 3.6
C3 N004 0 4.7µ
XU1 N003 N007 N004 N006 N002 N001 N001 N005 0 N008 LTC3214
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LTC3214.sub
.backanno
.end
